US07981874B2
tert-butyl (2E)-3-{3-[ethoxy(methyl)phosphoryl]phenyl}acrylate.
Diethyl methylphosphonite (0.15 ml, 0.992 mmol), tert-butyl (2E)-3-(3-bromophenyl)acrylate (0.25 g, 0.883 mmol), triethylamine (0.37 ml, 2.65 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.1559 g, 0.135 mmol) were combined and allowed to heat at 100° C. for approximately eight hours. The reaction was cooled and filtered over celite, washing with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with EtOAc/hexane. MS: calc'd 311 (MH+), exp 311 (MH+).

reactant | Diethyl methylphosphonite | 0.992 mmol, 0.15 ml | CP(OCC)OCC | C5H13O2P
reactant | tert-butyl (2E)-3-(3-bromophenyl)acrylate | 0.883 mmol, 0.25 g | BrC=1C=C(C=CC1)/C=C/C(=O)OC(C)(C)C | C13H15BrO2
reactant | triethylamine | 2.65 mmol, 0.37 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.135 mmol, 0.1559 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl (2E)-3-{3-[ethoxy(methyl)phosphoryl]phenyl}acrylate | C(C)OP(=O)(C)C=1C=C(C=CC1)/C=C/C(=O)OC(C)(C)C | C16H23O4P
